US06255305B1
a) 7-Cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazin-6-one
6-Chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine (2.0 g, 7.0 mmol), 2 N NaOH (50 ml) and 1,4-dioxane (10 ml) were heated at reflux for 16 hours. Cooled and water (150 ml) added. Precipitate filtered, suspended in H2O, acidified (2 N HCl), filtered and dried to give a white solid. 1H NMR (250 MHz, CDCl3) δ1.89-2.02 (1 H, m), 2.08-2.25 (3 H, m), 2.36-2.48 (1 H, m), 3.56-3.70 (1 H, m), 7.48-7.60 (3 H, m), 7.88 (1 H, s), 8.38 (1 H, m). Mass spec ES+ (M+1)=267.

reactant | 6-Chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 7.0 mmol, 2.0 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)C2CCC2 | C15H13ClN4
reactant | NaOH | 2 N, 50 ml | [OH-].[Na+]
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 150 ml | O | H2O
product | 7-Cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazin-6-one | C1(CCC1)C1=CC=2N(NC1=O)C(=NN2)C2=CC=CC=C2 | C15H14N4O
